US06335344B1
6-nitro-benzo[1,3]dioxole-5-carboxylic acid (19 g, 90 mmol) in 500 mL ethanol was hydrogenated at 50 psig over 5 g of 5% palladium on carbon for 2 hours. Catalyst was filtered off with Celite® and solvent was removed in vacuo to give 6-amino-benzo[1,3]dioxole-5-carboxylic acid; 4.5 g (27%) used without further purification.

reactant | 6-nitro-benzo[1,3]dioxole-5-carboxylic acid | 90 mmol, 19 g | [N+](=O)([O-])C=1C(=CC2=C(OCO2)C1)C(=O)O | C8H5NO6
solvent | ethanol | 500 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 5 g | [Pd] | Pd
product | 6-amino-benzo[1,3]dioxole-5-carboxylic acid | NC=1C(=CC2=C(OCO2)C1)C(=O)O | C8H7NO4
